US06716843B2
(S)-N-[4-Amino-5-oxo-5-(1-pyrrolidinyl)-pentyl]-ethanesulphonamide Hydrochloride
Starting from (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine, ethanesulphonyl chloride and pyrrolidine, the expected product is obtained according to the procedure described in Example 3.

reactant | (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C18H26N2O6
reactant | ethanesulphonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-N-[4-Amino-5-oxo-5-(1-pyrrolidinyl)-pentyl]-ethanesulphonamide Hydrochloride | Cl.N[C@@H](CCCNS(=O)(=O)CC)C(N1CCCC1)=O | InChI=1S/C11H23N3O3S.ClH/c1-2-18(16,17)13-7-5-6-10(12)11(15)14-8-3-4-9-14;/h10,13H,2-9,12H2,1H3;1H/t10-;/m0./s1
